US06169107A
The reaction was carried out in a manner similar to Example 196 e) except for using 0.60 g (1.27 mmol) of ethyl 7-[4-(tert-butoxycarbonylaminomethyl)-benzyloxy]-4-chloro-1-methyl-2-indolecarboxylate, 2.42 g (25.4 mmol) of guanidine hydrochloride, 1.37 g (25.4 mmol) of sodium methoxide and 50 ml of methanol. Thus, 0.25 g (43.0%) of 7-[4-(aminomethyl)benzyloxy]-4-chloro-1-methyl-2-indoloylguanidine dihydrochloride was obtained.

reactant | ethyl 7-[4-(tert-butoxycarbonylaminomethyl)-benzyloxy]-4-chloro-1-methyl-2-indolecarboxylate | 1.27 mmol, 0.60 g | C(C)(C)(C)OC(=O)NCC1=CC=C(COC=2C=CC(=C3C=C(N(C23)C)C(=O)OCC)Cl)C=C1 | C25H29ClN2O5
reactant | guanidine hydrochloride | 25.4 mmol, 2.42 g | Cl.NC(=N)N
reactant | sodium methoxide | 25.4 mmol, 1.37 g | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 7-[4-(aminomethyl)benzyloxy]-4-chloro-1-methyl-2-indoloylguanidine dihydrochloride | 0.25 g, 43.0% | Cl.Cl.NCC1=CC=C(COC=2C=CC(=C3C=C(NC23)C(=O)N=C(NC)N)Cl)C=C1 | InChI=1S/C19H20ClN5O2.2ClH/c1-23-19(22)25-18(26)15-8-13-14(20)6-7-16(17(13)24-15)27-10-12-4-2-11(9-21)3-5-12;;/h2-8,24H,9-10,21H2,1H3,(H3,22,23,25,26);2*1H
